US07838499B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(2-(cyclohexyloxy)ethoxy)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound AF)
To a solution of 4-bromo-1-chloro-2-(4-(2-(cyclohexyloxy)ethoxy)benzyl)benzene (intermediate AE) (0.3 g, 0.64 mmol) in anhydrous toluene/THF (v/v=2:1, 6 mL), n-BuLi (2.5 N, 0.39 mL, 0.96 mmol) was added dropwise at −78° C. and stirred for 1 h. Then the mixture was transferred to a solution of 2,3,4,6-tetra-O-trimethylsilyl-β-D-glucolactone (also called (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one) (0.447 g, 0.96 mmol) in anhydrous toluene (5 mL) at −78° C. The mixture was stirred at −78° C. for 2 h until starting material was consumed. The reaction was quenched with methanesulfonic acid (0.3 g in 10 mL MeOH), and the mixture was allowed to warm to room temperature and stirred overnight. Then 20 mL of water was added. The organic phase was separated, and the water phase was extracted with EtOAc. The organic phases were combined, washed with saturated NaHCO3, water and brine, and then dried with anhydrous Na2SO4, filtered and concentrated. The residue was dissolved in anhydrous CH3CN (4 mL), Et3SiH (0.2 mL, 1.25 mmol) was added and the mixture was cooled to −20° C. Then BF3.Et2O (0.12 mL, 0.94 mmol) was added dropwise, and the mixture was allowed to warm to 20° C. and stirred overnight. After the reaction reached completion, it was quenched with saturated aqueous NaHCO3. The solvent was removed under reduced pressure and the residue was extracted with EtOAc and washed with water and brine. The product was dried with anhydrous Na2SO4, filtered, concentrated to a solid, and purified by preparative HPLC to obtain compound AF as a white powder upon freeze-drying. 1H NMR (400 MHz, CD3OD): δ 7.37-7.30 (m, 3H), 7.12 (d, 2H, J=8.8 Hz), 6.85 (d, 2H, J=8.8 Hz), 4.11-4.03 (m, 5H), 3.87-3.79 (m, 4H), 3.47-3.33 (m, 4H); 3.32-3.30 (m, 1H), 2.00-1.90 (m, 2H), 1.76-1.75 (m, 2H), 1.60-1.50 (m, 1H), 1.33-1.28 (m, 5H); MS ESI (m/z): 508 (M+H)+, calc. 507.

reactant | 4-bromo-1-chloro-2-(4-(2-(cyclohexyloxy)ethoxy)benzyl)benzene | 0.64 mmol, 0.3 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OCCOC1CCCCC1 | C21H24BrClO2
reactant | n-BuLi | 0.96 mmol, 2.5 N, 0.39 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | Et3SiH | 1.25 mmol, 0.2 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.94 mmol, 0.12 mL | B(F)(F)F.CCOCC
solvent | toluene THF | 6 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(2-(cyclohexyloxy)ethoxy)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC=C(C=C1)OCCOC1CCCCC1 | C27H35ClO7
